R1 (net164 net41) R=4.6E1
R2 (net166 net108) R=8.0E3
R3 ( net27 net160)  R=1.3E5
T4 ( net160 net160 vdd! vdd!)  pfet  L=8.40E-6 W=8.35E-6
T5 ( net7 net160 vdd! vdd!)  pfet  L=8.40E-6 W=8.35E-6
C6 (0 net65) C=7.0E-14
T7 (vdd! net66 net66 0) pfet L=5.71E-6 W=2.40E-6
R8 ( net14 net82)  R=3.9E6
T9 ( net82 net129 0 0)  nfet  L=9.41E-6 W=7.51E-6
T10 ( net104 net129 0 0)  nfet  L=9.41E-6 W=7.51E-6
T11 ( vdd! net82 net129 0)  nfet  L=9.41E-6 W=7.51E-6
R12 (net5 net188) R=3.4E6
T13 (net86 net88 net88 0) pfet L=8.90E-6 W=9.17E-6
R14 (net194 net132) R=9.0E3
C15 (net14 net75) C=4.9E-8
T16 (net90 net139 net139 0) pfet L=7.98E-6 W=3.42E-6
T17 (net74 net67 net67 0) pfet L=6.75E-6 W=6.61E-6
R18 (net58 net198) R=5.1E5
C19 (net165 net155) C=9.9E-13
R20 (net5 net119) R=5.7E5
R21 (net29 net141) R=5.0E3
C22 (net63 vdd!) C=6.1E-10
R23 (net75 net1) R=3.3E3
C24 (net192 net37) C=4.4E-14
R25 (net134 net3) R=7.7E4
T26 (net146 net92 net92 0) pfet L=7.37E-6 W=3.32E-6
R27 (net63 net144) R=3.8E2
R28 (net34 net45) R=6.8E5
C29 (net140 net54) C=2.8E-11
T30 (net21 net76 net76 0) nfet L=7.17E-6 W=9.93E-6
R31 (net56 net79) R=6.1E1
T32 (net45 net80 net80 0) nfet L=1.97E-6 W=9.48E-6
C33 (net173 net99) C=1.0E-10
T34 (net52 net143 net143 0) pfet L=3.23E-6 W=8.07E-6
R35 (net41 net70) R=4.1E0
C36 (net74 net120) C=4.4E-7
R37 (net142 net70) R=2.7E2
C38 (net70 net51) C=6.1E-11
T39 (net48 net44 net44 0) nfet L=6.45E-6 W=2.57E-6
T40 (net188 net78 net78 0) nfet L=8.76E-6 W=3.93E-6
R41 (net50 net66) R=7.7E5
T42 (vdd! net69 net69 0) pfet L=3.83E-6 W=6.46E-6
C43 (net47 net4) C=1.0E-12
R44 (net135 vdd!) R=8.5E3
T45 (net90 net66 net66 0) nfet L=3.50E-6 W=5.31E-6
R46 (net149 net180) R=8.9E1
T47 (0 net152 net152 0) pfet L=6.91E-6 W=5.30E-6
T48 (vdd! net105 net105 0) pfet L=8.88E-6 W=8.77E-6
T49 (0 net131 net131 0) nfet L=4.74E-6 W=4.89E-6
R50 (net159 net93) R=6.9E4
T51 (net200 net118 net118 0) nfet L=3.98E-6 W=0.17E-6
T52 (net189 vdd! vdd! 0) pfet L=7.25E-6 W=7.70E-6
C53 (net8 net103) C=7.8E-9
C54 (net76 net7) C=1.3E-9
R55 (net74 net134) R=9.7E2
T56 (net178 0 0 0) pfet L=3.89E-6 W=6.72E-6
C57 (net1 net42) C=8.4E-11
T58 (net103 net152 net152 0) nfet L=6.03E-6 W=5.65E-6
T59 (net117 net50 net50 0) nfet L=4.37E-6 W=8.43E-6
T60 (net131 net65 net65 0) nfet L=4.06E-6 W=3.14E-6
C61 (net37 net69) C=4.0E-8
T62 (net103 net37 net37 0) pfet L=8.04E-6 W=3.28E-6
T63 (0 net188 net188 0) pfet L=7.44E-6 W=3.84E-6
R64 (net12 net62) R=0.4E4
T65 (net137 net140 net140 0) nfet L=7.18E-6 W=3.97E-6
C66 (net142 0) C=9.0E-9
T67 (net180 net45 net45 0) nfet L=0.35E-6 W=0.77E-6
T68 (net172 net149 net149 0) pfet L=2.47E-6 W=0.97E-6
R69 (net15 net168) R=8.2E5
T70 (0 net188 net188 0) pfet L=5.34E-6 W=8.45E-6
R71 (net198 net195) R=6.4E1
C72 (net1 net138) C=7.1E-11
T73 (net40 net134 net134 0) nfet L=4.06E-6 W=4.66E-6
T74 (net25 net35 net35 0) pfet L=8.83E-6 W=7.09E-6
R75 (net177 net118) R=0.3E3
R76 (net48 net109) R=0.6E1
R77 (net81 net196) R=6.6E6
R78 (net123 net135) R=7.6E3
C79 (net187 net199) C=3.6E-9
T80 (net147 net194 net194 0) nfet L=9.46E-6 W=4.43E-6
T81 (net39 net47 net47 0) nfet L=0.94E-6 W=6.13E-6
R82 (net86 net57) R=0.5E2
T83 (net13 net76 net76 0) pfet L=3.49E-6 W=1.11E-6
C84 (net170 net121) C=0.7E-7
R85 (net157 net96) R=0.6E2
T86 (net50 net8 net8 0) pfet L=4.47E-6 W=7.71E-6
C87 (net61 net197) C=0.2E-10
T88 (net26 net51 net51 0) nfet L=2.78E-6 W=4.86E-6
T89 (0 net53 net53 0) pfet L=2.76E-6 W=6.10E-6
C90 (net27 net101) C=7.2E-7
T91 (net107 net56 net56 0) nfet L=1.81E-6 W=9.16E-6
T92 (net178 net199 net199 0) nfet L=0.98E-6 W=6.22E-6
T93 (net13 net175 net175 0) pfet L=3.22E-6 W=3.15E-6
C94 (net24 net169) C=4.5E-14
T95 (net142 net195 net195 0) pfet L=6.92E-6 W=0.21E-6
C96 (net182 net39) C=1.6E-9
R97 (net84 net60) R=6.6E2
C98 (net85 net1) C=9.4E-8
T99 (vdd! net58 net58 0) nfet L=0.17E-6 W=8.64E-6
C100 (net13 net78) C=6.8E-8
T101 (net73 net8 net8 0) nfet L=5.19E-6 W=4.43E-6
R102 (net26 net131) R=0.5E2
T103 (net27 vdd! vdd! 0) pfet L=1.26E-6 W=7.45E-6
C104 (net114 net46) C=8.9E-7
T105 (net32 net196 net196 0) pfet L=4.05E-6 W=6.57E-6
T106 (net109 net153 net153 0) nfet L=4.13E-6 W=3.25E-6
T107 (vdd! net32 net32 0) pfet L=8.85E-6 W=1.91E-6
C108 (net149 net62) C=1.0E-14
C109 (net192 net177) C=0.7E-12
T110 (net17 net124 net124 0) nfet L=1.64E-6 W=5.30E-6
T111 (0 net59 net59 0) pfet L=2.74E-6 W=5.21E-6
T112 (net174 0 0 0) pfet L=1.45E-6 W=9.57E-6
T113 (net36 net65 net65 0) nfet L=8.79E-6 W=4.38E-6
T114 (net44 net45 net45 0) nfet L=9.97E-6 W=3.48E-6
C115 (net7 net63) C=1.1E-6
C116 (net125 net1) C=0.4E-5
C117 (net93 net193) C=4.3E-9
T118 (net87 net143 net143 0) pfet L=7.93E-6 W=6.06E-6
R119 (net67 net68) R=6.9E1
T120 (net79 net8 net8 0) nfet L=3.34E-6 W=0.89E-6
T121 (net7 vdd! vdd! 0) pfet L=3.48E-6 W=1.88E-6
R122 (net159 net122) R=4.2E5
T123 (vdd! net172 net172 0) pfet L=7.86E-6 W=3.23E-6
C124 (net139 net164) C=9.9E-8
C125 (net48 net162) C=1.2E-8
R126 (net54 net180) R=3.5E3
R127 (net192 net139) R=5.8E4
T128 (net106 net27 net27 0) pfet L=1.74E-6 W=1.80E-6
T129 (net52 net132 net132 0) pfet L=2.04E-6 W=2.76E-6
C130 (net200 net20) C=6.2E-7
T131 (net70 net43 net43 0) pfet L=0.52E-6 W=5.39E-6
R132 (vdd! net84) R=9.1E4
T133 (net130 net122 net122 0) pfet L=4.50E-6 W=1.22E-6
C134 (net198 net13) C=6.5E-8
C135 (0 net181) C=9.6E-8
T136 (net68 net185 net185 0) pfet L=4.46E-6 W=5.15E-6
T137 (net103 net22 net22 0) nfet L=1.36E-6 W=4.69E-6
R138 (0 net72) R=6.1E2
T139 (net132 net156 net156 0) nfet L=5.92E-6 W=7.91E-6
T140 (net95 net47 net47 0) nfet L=4.63E-6 W=2.85E-6
C141 (net69 vdd!) C=2.3E-10
C142 (net194 net119) C=1.3E-12
T143 (net143 net78 net78 0) pfet L=1.51E-6 W=1.23E-6
R144 (net11 net133) R=7.0E2
T145 (net119 net180 net180 0) pfet L=6.39E-6 W=7.80E-6
C146 (net39 net93) C=5.7E-7
R147 (net196 net98) R=5.1E0
T148 (net184 net172 net172 0) nfet L=5.71E-6 W=6.70E-6
R149 (net182 net102) R=4.3E2
T150 (net41 net20 net20 0) pfet L=0.77E-6 W=4.18E-6
T151 (net153 net134 net134 0) pfet L=7.45E-6 W=0.93E-6
R152 (net8 net33) R=3.3E4
T153 (net127 net147 net147 0) nfet L=7.01E-6 W=3.38E-6
R154 (net1 net51) R=7.7E5
R155 (net141 net97) R=3.1E1
C156 (net110 net159) C=8.2E-13
C157 (net199 net23) C=3.7E-12
T158 (net68 vdd! vdd! 0) nfet L=5.39E-6 W=1.29E-6
C159 (net7 0) C=4.3E-8
C160 (net18 vdd!) C=5.9E-5
T161 (net57 net1 net1 0) nfet L=4.31E-6 W=4.91E-6
R162 (net15 net57) R=5.6E5
T163 (net105 net67 net67 0) nfet L=1.06E-6 W=1.30E-6
R164 (0 net128) R=4.3E4
T165 (net184 net115 net115 0) nfet L=3.24E-6 W=4.93E-6
C166 (net95 net144) C=0.9E-8
R167 (net169 net31) R=0.7E5
R168 (net84 net110) R=1.6E1
T169 (net61 net20 net20 0) nfet L=9.33E-6 W=6.51E-6
R170 (net115 net100) R=8.2E5
T171 (vdd! net176 net176 0) nfet L=4.14E-6 W=8.75E-6
T172 (net138 0 0 0) pfet L=8.37E-6 W=5.55E-6
C173 (net40 net145) C=4.2E-9
T174 (net100 net126 net126 0) pfet L=0.90E-6 W=4.06E-6
R175 (net70 net54) R=9.9E5
R176 (net16 net40) R=5.1E6
C177 (net195 net109) C=7.7E-8
T178 (net118 net149 net149 0) pfet L=4.55E-6 W=3.00E-6
C179 (net125 net184) C=0.9E-14
R180 (net43 net76) R=9.6E0
C181 (net50 net80) C=9.9E-8
T182 (net32 net194 net194 0) pfet L=0.65E-6 W=5.71E-6
T183 (net41 0 0 0) nfet L=4.92E-6 W=0.42E-6
R184 (net41 net146) R=8.2E2
T185 (net118 net135 net135 0) pfet L=8.95E-6 W=9.74E-6
C186 (net47 net192) C=4.1E-10
R187 (net30 net4) R=7.2E4
C188 (net104 net176) C=7.3E-12
T189 (net113 net21 net21 0) pfet L=1.15E-6 W=9.67E-6
R190 (net140 net139) R=5.5E5
C191 (net72 net24) C=8.9E-9
C192 (net182 net72) C=6.8E-6
R193 (net197 net6) R=1.2E1
R194 (0 net186) R=2.4E5
R195 (net141 vdd!) R=2.0E0
T196 (net112 net35 net35 0) pfet L=1.10E-6 W=4.61E-6
C197 (net45 net98) C=8.5E-10
T198 (net194 net131 net131 0) pfet L=1.32E-6 W=6.81E-6
R199 (net115 net30) R=6.7E1
R200 (net110 net60) R=7.0E0
T201 (net106 net168 net168 0) nfet L=6.60E-6 W=8.83E-6
T202 (net122 net151 net151 0) nfet L=3.74E-6 W=3.86E-6
T203 (net81 net88 net88 0) pfet L=1.04E-6 W=1.50E-6
T204 (net117 net121 net121 0) pfet L=7.15E-6 W=9.99E-6
T205 (net88 net186 net186 0) pfet L=1.41E-6 W=8.25E-6
T206 (net197 net38 net38 0) nfet L=7.26E-6 W=6.04E-6
C207 (net78 0) C=1.8E-10
C208 (net39 net151) C=7.2E-9
T209 (net139 net185 net185 0) pfet L=0.69E-6 W=5.50E-6
T210 (net71 net110 net110 0) nfet L=6.64E-6 W=8.19E-6
T211 (net88 net130 net130 0) pfet L=0.65E-6 W=9.95E-6
C212 (net176 net57) C=6.1E-9
T213 (net51 net166 net166 0) nfet L=6.32E-6 W=8.98E-6
R214 (net111 net143) R=7.1E4
C215 (net192 net23) C=8.7E-13
T216 (net145 net78 net78 0) pfet L=6.47E-6 W=2.34E-6
C217 (net123 net39) C=7.7E-13
T218 (net51 net138 net138 0) pfet L=6.45E-6 W=6.47E-6
T219 (net177 net124 net124 0) nfet L=9.67E-6 W=4.56E-6
C220 (net18 vdd!) C=2.6E-8
T221 (net186 net75 net75 0) nfet L=0.74E-6 W=2.88E-6
C222 (net72 net8) C=2.5E-8
T223 (net28 net47 net47 0) pfet L=4.71E-6 W=5.94E-6
R224 (net43 net25) R=2.7E6
T225 (net163 net108 net108 0) pfet L=4.67E-6 W=2.68E-6
R226 (net189 net172) R=8.4E1
T227 (net31 net187 net187 0) nfet L=2.09E-6 W=10.00E-6
T228 (net80 net126 net126 0) pfet L=3.14E-6 W=9.61E-6
T229 (net185 net1 net1 0) nfet L=1.65E-6 W=5.16E-6
R230 (net4 net75) R=9.3E2
C231 (net124 net199) C=4.1E-11
R232 (net10 net68) R=1.9E4
T233 (0 net193 net193 0) pfet L=7.78E-6 W=3.76E-6
C234 (0 net144) C=5.8E-11
T235 (net35 net108 net108 0) pfet L=7.36E-6 W=9.93E-6
T236 (net47 net92 net92 0) nfet L=5.81E-6 W=9.53E-6
T237 (vdd! net127 net127 0) pfet L=6.12E-6 W=0.52E-6
T238 (net151 net197 net197 0) pfet L=6.57E-6 W=6.22E-6
C239 (net5 net116) C=7.0E-8
T240 (vdd! net105 net105 0) nfet L=5.21E-6 W=3.06E-6
R241 (net185 vdd!) R=9.1E6
C242 (net111 net128) C=1.6E-11
R243 (net195 net165) R=8.0E5
T244 (0 net87 net87 0) nfet L=3.63E-6 W=5.54E-6
C245 (net154 net192) C=1.8E-7
T246 (net4 vdd! vdd! 0) pfet L=3.08E-6 W=9.63E-6
T247 (net78 net147 net147 0) nfet L=3.74E-6 W=4.46E-6
T248 (0 net9 net9 0) nfet L=6.83E-6 W=7.39E-6
T249 (net7 net96 net96 0) nfet L=3.56E-6 W=4.80E-6
C250 (net31 net47) C=5.3E-8
T251 (net175 net100 net100 0) pfet L=5.15E-6 W=6.86E-6
T252 (net135 net185 net185 0) nfet L=1.69E-6 W=6.96E-6
T253 (net127 net188 net188 0) nfet L=0.99E-6 W=5.88E-6
R254 (net175 net170) R=1.0E0
T255 (net119 net130 net130 0) nfet L=6.15E-6 W=6.81E-6
R256 (net162 vdd!) R=2.1E1
T257 (net12 net78 net78 0) nfet L=8.92E-6 W=9.35E-6
C258 (net128 net117) C=7.7E-10
T259 (net1 net136 net136 0) pfet L=2.00E-6 W=2.80E-6
T260 (vdd! vdd! vdd! 0) pfet L=8.87E-6 W=9.19E-6
R261 (net192 net165) R=6.1E1
T262 (0 net13 net13 0) nfet L=3.09E-6 W=5.44E-6
C263 (net175 0) C=4.9E-12
R264 (net5 net89) R=4.1E1
T265 (net84 net1 net1 0) nfet L=5.83E-6 W=9.17E-6
T266 (net27 net92 net92 0) pfet L=3.94E-6 W=6.18E-6
T267 (0 net188 net188 0) nfet L=8.71E-6 W=0.69E-6
R268 (net119 net190) R=3.6E6
T269 (net20 net182 net182 0) pfet L=7.36E-6 W=5.49E-6
T270 (net102 net26 net26 0) pfet L=3.58E-6 W=4.28E-6
T271 (net138 net178 net178 0) pfet L=2.13E-6 W=1.11E-6
C272 (vdd! net167) C=2.4E-7
T273 (net39 net66 net66 0) pfet L=0.78E-6 W=3.91E-6
T274 (net153 net75 net75 0) pfet L=5.73E-6 W=6.26E-6
C275 (net127 net200) C=3.6E-9
T276 (vdd! net39 net39 0) pfet L=2.68E-6 W=4.31E-6
C277 (net195 net179) C=7.3E-12
R278 (net109 net95) R=3.3E0
T279 (net107 net73 net73 0) pfet L=4.90E-6 W=1.40E-6
T280 (net36 net134 net134 0) nfet L=0.61E-6 W=4.23E-6
C281 (net23 net57) C=10.0E-7
R282 (net38 net118) R=9.0E3
R283 (net128 net103) R=8.9E0
R284 (net55 net54) R=3.5E3
C285 (net67 net56) C=5.3E-14
C286 (net78 net144) C=3.2E-11
C287 (0 net156) C=0.8E-10
C288 (net15 net159) C=5.5E-10
R289 (net29 net193) R=7.6E5
T290 (net140 net12 net12 0) pfet L=8.34E-6 W=7.77E-6
R291 (0 net99) R=1.5E3
T292 (net169 vdd! vdd! 0) pfet L=4.47E-6 W=4.83E-6
R293 (net89 net28) R=4.7E0
T294 (net110 net53 net53 0) nfet L=4.17E-6 W=8.47E-6
R295 (net7 net8) R=4.7E6
R296 (net38 net3) R=5.2E1
R297 (net147 net182) R=3.5E2
T298 (net130 net195 net195 0) nfet L=1.51E-6 W=0.17E-6
R299 (net134 net98) R=2.6E1
T300 (net182 net176 net176 0) nfet L=8.13E-6 W=8.84E-6
C301 (net161 vdd!) C=2.8E-5
T302 (net25 net107 net107 0) pfet L=8.69E-6 W=6.05E-6
R303 (net187 net7) R=4.1E0
C304 (net28 net133) C=7.3E-13
T305 (net2 net29 net29 0) pfet L=5.55E-6 W=3.17E-6
R306 (net175 net54) R=10.0E0
R307 (net94 net131) R=6.4E6
T308 (net187 net21 net21 0) pfet L=0.48E-6 W=6.77E-6
T309 (net200 net60 net60 0) nfet L=5.59E-6 W=2.61E-6
T310 (net81 0 0 0) nfet L=5.99E-6 W=1.13E-6
R311 (net85 net163) R=9.6E2
T312 (net96 net24 net24 0) pfet L=4.01E-6 W=1.12E-6
T313 (net66 net158 net158 0) nfet L=0.15E-6 W=8.60E-6
R314 (net79 net171) R=2.2E6
T315 (net61 vdd! vdd! 0) pfet L=1.70E-6 W=1.68E-6
C316 (net121 net156) C=0.5E-14
T317 (vdd! net77 net77 0) nfet L=7.65E-6 W=7.74E-6
T318 (net192 net86 net86 0) pfet L=2.28E-6 W=3.96E-6
R319 (net54 net37) R=3.3E2
R320 (net87 vdd!) R=2.6E1
R321 (net50 net173) R=7.7E4
T322 (net176 net108 net108 0) nfet L=8.87E-6 W=7.98E-6
T323 (net87 net9 net9 0) pfet L=9.18E-6 W=1.10E-6
C324 (net165 net143) C=7.1E-13
C325 (net152 net107) C=5.4E-9
T326 (net116 net54 net54 0) pfet L=3.93E-6 W=1.90E-6
T327 (net178 net66 net66 0) pfet L=9.34E-6 W=5.16E-6
T328 (vdd! net135 net135 0) nfet L=6.77E-6 W=7.48E-6
T329 (net111 vdd! vdd! 0) pfet L=8.21E-6 W=1.52E-6
R330 (net163 net96) R=8.5E2
T331 (net70 net176 net176 0) pfet L=2.89E-6 W=0.86E-6
R332 (net24 0) R=4.3E2
C333 (net171 net182) C=7.1E-10
R334 (net70 net85) R=5.9E3
T335 (vdd! net27 net27 0) pfet L=1.27E-6 W=1.13E-6
T336 (net42 net106 net106 0) nfet L=7.22E-6 W=2.87E-6
C337 (net165 net148) C=5.9E-8
R338 (net95 net13) R=7.9E0
C339 (net112 0) C=0.3E-8
C340 (net133 net178) C=9.6E-8
T341 (net48 net142 net142 0) pfet L=1.18E-6 W=0.31E-6
R342 (net126 net98) R=7.2E2
C343 (0 net116) C=5.4E-6
T344 (net193 net195 net195 0) nfet L=7.31E-6 W=7.03E-6
R345 (vdd! net133) R=8.5E1
C346 (net43 net96) C=0.5E-5
T347 (net187 0 0 0) nfet L=6.57E-6 W=9.57E-6
C348 (net23 net184) C=0.5E-5
R349 (net19 net102) R=0.9E6
T350 (net188 net106 net106 0) pfet L=2.97E-6 W=8.66E-6
T351 (net200 net194 net194 0) pfet L=0.46E-6 W=9.36E-6
T352 (net51 vdd! vdd! 0) nfet L=7.88E-6 W=4.21E-6
C353 (net23 vdd!) C=1.5E-11
T354 (net121 net67 net67 0) pfet L=0.52E-6 W=8.16E-6
T355 (net118 net170 net170 0) nfet L=0.81E-6 W=8.76E-6
T356 (net18 net75 net75 0) pfet L=7.97E-6 W=3.71E-6
T357 (net116 net27 net27 0) nfet L=8.77E-6 W=0.22E-6
R358 (net177 net179) R=8.9E4
R359 (net167 net14) R=4.0E3
C360 (net117 net92) C=7.8E-13
T361 (net88 vdd! vdd! 0) nfet L=2.32E-6 W=9.25E-6
T362 (net68 net93 net93 0) nfet L=5.53E-6 W=5.36E-6
R363 (net23 net98) R=2.8E5
T364 (net96 net200 net200 0) pfet L=3.92E-6 W=3.71E-6
C365 (net156 net54) C=5.5E-9
T366 (net193 net59 net59 0) nfet L=7.38E-6 W=1.80E-6
R367 (net78 net84) R=1.1E1
C368 (net136 net38) C=3.1E-9
C369 (net12 net110) C=4.7E-5
T370 (net77 net53 net53 0) nfet L=6.47E-6 W=3.04E-6
T371 (net76 net55 net55 0) nfet L=7.28E-6 W=2.65E-6
C372 (net188 net165) C=2.9E-13
C373 (net98 net122) C=8.0E-13
T374 (net22 net105 net105 0) pfet L=1.43E-6 W=0.68E-6
C375 (net134 net39) C=6.2E-8
T376 (net107 net54 net54 0) nfet L=3.30E-6 W=0.84E-6
R377 (net114 net38) R=1.8E3
T378 (net158 net134 net134 0) pfet L=4.36E-6 W=2.82E-6
C379 (net17 net163) C=10.0E-11
T380 (net181 net152 net152 0) nfet L=2.07E-6 W=2.00E-6
T381 (0 net112 net112 0) pfet L=3.01E-6 W=5.43E-6
R382 (net113 net33) R=0.5E3
T383 (net95 0 0 0) nfet L=8.30E-6 W=5.11E-6
C384 (net28 net11) C=9.2E-9
T385 (net142 vdd! vdd! 0) pfet L=4.72E-6 W=1.65E-6
T386 (net89 net86 net86 0) nfet L=3.98E-6 W=2.93E-6
C387 (net106 net4) C=1.3E-11
R388 (net194 net153) R=8.3E3
T389 (net155 net156 net156 0) pfet L=1.43E-6 W=9.76E-6
T390 (net79 net138 net138 0) pfet L=8.98E-6 W=4.54E-6
R391 (net182 net185) R=6.5E3
T392 (net181 net191 net191 0) pfet L=9.30E-6 W=0.84E-6
T393 (net183 net144 net144 0) nfet L=5.44E-6 W=4.01E-6
C394 (net41 net40) C=5.3E-11
R395 (net80 0) R=4.8E3
C396 (net184 net41) C=7.4E-9
T397 (net27 vdd! vdd! 0) pfet L=8.17E-6 W=8.58E-6
R398 (net43 net14) R=3.6E0
C399 (vdd! net101) C=3.8E-5
T400 (net76 net116 net116 0) nfet L=4.33E-6 W=4.74E-6
T401 (net41 net106 net106 0) pfet L=3.61E-6 W=2.60E-6
C402 (net164 net57) C=8.2E-14

