T1 ( net19 net19 vdd! vdd!)  pfet  L=9.43E-6 W=5.19E-6
T2 ( net14 net19 vdd! vdd!)  pfet  L=9.43E-6 W=5.19E-6
R3 ( net14 net3)  R=7.7E3
T4 (net20 net3 net3 0) pfet L=4.01E-6 W=1.95E-6
R5 (net21 net4) R=8.6E1
T6 (net7 net4 net4 0) nfet L=9.05E-6 W=9.06E-6
R7 ( net19 net24)  R=4.5E4
T8 ( net24 net5 vdd! vdd!)  pfet  L=3.27E-6 W=2.93E-6
T9 ( net18 net5 vdd! vdd!)  pfet  L=3.27E-6 W=2.93E-6
T10 ( 0 net24 net5 vdd!)  pfet  L=3.27E-6 W=2.93E-6
R11 (net21 net9) R=8.4E0
T12 (net4 net13 net13 0) pfet L=6.24E-6 W=8.43E-6
C13 (net4 net16) C=5.0E-7
C14 (net23 net18) C=8.9E-10
C15 (net22 vdd!) C=4.7E-12
T16 (net2 net9 net9 0) pfet L=5.50E-6 W=5.79E-6
T17 (net9 net19 net19 0) pfet L=9.22E-6 W=5.83E-6
R18 (net18 net19) R=3.3E6
T19 (net20 net18 net18 0) nfet L=8.93E-6 W=1.21E-6
T20 (net17 net20 net20 0) nfet L=8.43E-6 W=5.16E-6
T21 (net1 net2 net2 0) nfet L=5.77E-6 W=0.57E-6
C22 (net1 0) C=9.9E-8
T23 (net17 net1 net1 0) pfet L=8.89E-6 W=8.53E-6
C24 (net7 net6) C=0.2E-11
R25 (net21 net22) R=9.7E5

